US08835659B2
Preparation of 2-(2,6-dimethoxypyridin-3-yl)benzofuran-4,6-diol, with the Following Structural Formula
This compound was prepared using Method A from 3,5-dimethoxyphenol and 2-bromo-1-(2,6-dimethoxypyridin-3-yl)ethanone: Yield 47% following procedures A.2 and A.5; m.p. 97° C. (dec.); IR 3434, 2958, 1587, 1471, 1319, 1265, 1084, 1020 cm−1; 1H-NMR (500 MHz, δ ppm, DMSO-d6) 9.77 (s, 1H), 9.30 (s, 1H), 8.07 (d, J=8.3 Hz, 1H), 7.13 (s, 1H), 6.51 (d, J=8.3 Hz, 1H), 6.40 (s, 1H), 6.16 (s, 1H), 4.08 (s, 3H), 3.92 (s, 3H); 13C-NMR (126 MHz, δ ppm, CD3OD) 163.3, 159.7, 157.8, 157.5, 152.3, 149.5, 138.2, 113.3, 107.8, 102.8, 102.6, 98.7, 90.7, 54.1, 54.1.

reactant | 3,5-dimethoxyphenol | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | 2-bromo-1-(2,6-dimethoxypyridin-3-yl)ethanone | BrCC(=O)C=1C(=NC(=CC1)OC)OC | C9H10BrNO3
product | 2-(2,6-dimethoxypyridin-3-yl)benzofuran-4,6-diol | Yield 47% | COC1=NC(=CC=C1C=1OC=2C(C1)=C(C=C(C2)O)O)OC | C15H13NO5
